US04324792
(ii) 3-(4-Aminophenyl)-N,N-dimethyl-3-(imidazol-2-yl)propanamine
A solution of sodium nitrite (0.5 g) in water (5 ml) was added dropwise to a stirred solution of 4-[3-(N,N-dimethylamino)-1-(imidazol-2-yl)propyl]benzoic acid hydrazide (2.0 g) in 2 N hydrochloric acid (10.5 ml) and water (50 ml) at 0° to 5° C. After 30 min. the solution was basified by adding 2 N sodium carbonate (15 ml) and then extracted with ether (3×50 ml). The extracts were dried (Na2SO4) and concentrated to an off white solid (1.7 g). This solid was dissolved in toluene (40 ml) and benzyl alcohol (1.5 ml) and heated on a steam bath for 2 h. Solvent was removed and the residue taken up in ethanol (20 ml) and hydrogenated at atmospheric pressure over 10% palladium oxide on charcoal (0.5 g) for 3 h. The catalyst was filtered off and the filtrate treated with a solution of maleic acid (1.8 g) in ethanol (10 ml). Removal of the solvent and trituration of the residue with dry ether afforded a white solid. Recrystallisation from ethanolether gave the trimaleate salt of the title compound, m.p. 132°-133° (2.6 g).

reactant | sodium nitrite | 0.5 g | N(=O)[O-].[Na+]
reactant | 4-[3-(N,N-dimethylamino)-1-(imidazol-2-yl)propyl]benzoic acid hydrazide | 2.0 g | CN(C)CCC(C=1NC=CN1)C1=CC=C(C(=O)NN)C=C1 | C15H21N5O
reactant | sodium carbonate | 2 N, 15 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 5 ml | O | H2O
solvent | hydrochloric acid | 2 N, 10.5 ml | Cl | ClH
solvent | water | 50 ml | O | H2O
product | 3-(4-Aminophenyl)-N,N-dimethyl-3-(imidazol-2-yl)propanamine | NC1=CC=C(C=C1)C(CCN(C)C)C=1NC=CN1 | C14H20N4
